US03994954
A solution of 0.5 g. (1.5 mmol.) of N-t-butoxycarbonyl-2-(4-hydroxyphenyl)glycine n-butyl ester in 20 ml. of methanol and 30 ml. of 5% aqueous sodium carbonate was heated at reflux for 30 minutes. The solvent was removed in vacuo and the aqueous residue was extracted with ethyl acetate. The aqueous phase was acidified to pH 3.0 with phosphoric acid and again extracted with ethyl acetate. The extract was dried (Na2SO4) and concentrated to give N-t-butoxycarbonyl-2-(4-hydroxyphenyl)glycine, m.p. 112°-114° (methanol-water).

reactant | N-t-butoxycarbonyl-2-(4-hydroxyphenyl)glycine n-butyl ester | 1.5 mmol | C(CCC)OC(C(NC(=O)OC(C)(C)C)C1=CC=C(C=C1)O)=O | C17H25NO5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | N-t-butoxycarbonyl-2-(4-hydroxyphenyl)glycine | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=C(C=C1)O | C13H17NO5
